US06537948B1
1.5 ml of boron trifluoride diethyl etherate was added to a mixture of 1.1 g of 3-amino-2-{1-(methoxycarbonyl)ethoxy}pyridine, 3 ml of 1,2-dimethoxyethane and 1 ml of dichloromethane dropwise at −10° C. After mixing for 10 minutes at the same temperature, a solution of 0.80 ml of t-butyl nitrite in 1 ml of 1,2-dimethoxyethane was added to the reaction solution dropwise at −5° C. or lower. After mixing for 30 minutes at the same temperature, n-pentane was poured into the mixture. The lower layer of two separated layers was dissolved in 5 ml of acetic anhydride, and the mixture was stirred for 1 hour at 70° C. The solvent was distilled off, then, the resulted residue was subjected to silica gel chromatography to obtain 0.34 g of 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine.

reactant | boron trifluoride diethyl etherate | 1.5 ml | B(F)(F)F.CCOCC
reactant | 3-amino-2-{1-(methoxycarbonyl)ethoxy}pyridine | 1.1 g | NC=1C(=NC=CC1)OC(C)C(=O)OC | C9H12N2O3
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | t-butyl nitrite | 0.80 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | n-pentane | CCCCC | C5H12
product | 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine | 0.34 g | C(C)(=O)OC=1C(=NC=CC1)OC(C)C(=O)OC | C11H13NO5
